US07465726B2
tert-Butyl 4-(4-{3-[3-(2-dimethylaminoethyl)-3H-imidazol-4-yl]phenylamino}-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylate
3-[3-(2-Dimethylaminoethyl)-3H-imidazol-4-yl]phenylamine (110 mg, 0.478 mmol) was added to a solution of tert-butyl 4-(chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylate (133 mg, 0.398 mmol) in 1-butanol (2.0 mL). The reaction was stirred at 120° C. for 48 h. 0.8 mL of 1 N HCl in ether was then added and the mixture was stirred further at 120° C. for 15 h. LC-MS showed the displacement reaction was complete and the BOC group in the desired product was completely removed. Di-tert-butyldicarbonate (347 mg, 1.59 mmol) and N,N-diisopropylethylamine (0.347 mL, 1.99 mmol) were added, and the resulting mixture was stirred at rt for 30 min. DMF (z1.5 mL) was added and the mixture was filtered. The filtrate was purified by HPLC purification to give the title compound. 1H-NMR (CD3OD, 400 MHz): δ=1.50 (s, 9H), 2.52 (s, 6H), 2.58 (m, 2H), 3.04 (t, J=6.8 Hz, 2H), 3.67 (m, 2H), 4.13 (m, 2H), 4.53 (t, J=6.8 Hz, 2H), 6.30 (s, br, 1H), 6.72 (s, 1H), 7.18 (s, 1H), 7.19 (d, J=7.6 Hz, 1H), 7.48-7.52 (m, 1H), 7.72 (dd, J=2.4, 8.0 Hz, 1H), 8.06 (s, 1H), 8.12 (m, 1H), 8.26 (s, 1H). MS (ES+): m/z 529 [MH+]. HPLC: tR=2.00 min (ZQ2000, polar—5 min).

reactant | 3-[3-(2-Dimethylaminoethyl)-3H-imidazol-4-yl]phenylamine | 0.478 mmol, 110 mg | CN(CCN1C=NC=C1C=1C=C(C=CC1)N)C | C13H18N4
reactant | tert-butyl 4-(chloro-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylate | 0.398 mmol, 133 mg | ClC=1N=CC2=C(N1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C | C16H19ClN4O2
reactant | HCl | 1 N, 0.8 mL | Cl | ClH
reactant | Di-tert-butyldicarbonate | 1.59 mmol, 347 mg | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | N,N-diisopropylethylamine | 1.99 mmol, 0.347 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | 1-butanol | 2.0 mL | C(CCC)O | C4H10O
solvent | ether | CCOCC | C4H10O
solvent | DMF | CN(C)C=O | C3H7NO
product | tert-Butyl 4-(4-{3-[3-(2-dimethylaminoethyl)-3H-imidazol-4-yl]phenylamino}-7H-pyrrolo[2,3-d]pyrimidin-6-yl)-3,6-dihydro-2H-pyridine-1-carboxylate | CN(CCN1C=NC=C1C=1C=C(C=CC1)NC=1C2=C(N=CN1)NC(=C2)C=2CCN(CC2)C(=O)OC(C)(C)C)C | C29H36N8O2
